US07534797B2
cis-3-[8-Chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl 4-nitrobenzoate
To a solution of {3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol (46.52 g, 105.5 mmol) and 4-nitrobenzoyl chloride (23.55 g, 126.9 mmol) in methylene chloride (260 mL) was added N,N-diisopropylethyl amine (55.17 mL, 316.7 mmol). The mixture was stirred at rt for 15 h. Yellow precipitates were collected by filtration, washed with ethyl acetate, and dried to afford the title compound; 1H NMR (CDCl3, 400 MHz) δ 2.70-2.78 (m, 4H), 2.96-3.02 (m, 1H), 3.81-3.86 (m, 1H), 4.41 (d, J=4.8 Hz, 2H), 7.37 (d, J=5.2 Hz, 1H), 7.44-7.48 (m, 1H), 7.51-7.55 (m, 2H), 7.58 (d, J=5.2 Hz, 1H), 7.88-7.96 (m, 5H), 8.16-8.19 (m, 2H), 8.26-8.29 (m, 2H), 8.33 (d, J=8.8 Hz, 1H), 8.54 (s, 1H); MS (ES+): m/z 590 [MH+]; HPLC: tR=4.37 min (OpenLynx, polar—5 min).

reactant | {3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol | 105.5 mmol, 46.52 g | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)CO | C26H21ClN4O
reactant | 4-nitrobenzoyl chloride | 126.9 mmol, 23.55 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | N,N-diisopropylethyl amine | 316.7 mmol, 55.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 260 mL | C(Cl)Cl | CH2Cl2
product | cis-3-[8-Chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2C[C@@H](C2)C2=NC(=C3N2C=CN=C3Cl)C3=CC=C2C=CC(=NC2=C3)C3=CC=CC=C3)C=C1 | C33H24ClN5O4
